US04670448
1-Methyl-3-methylsulphonylmethyl-N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1H-1,2,4-triazole-5-amine.
Peracetic acid (1.05 ml of a 6.1M solution) in acetic acid (7 ml) was added to an ice-cooled solution of 1-methyl-3-methylthiomethyl-N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1H-1,2,4-triazole-5-amine (0.82 g) in acetic acid (10 ml) with sodium acetate (0.52 g). The mixture was stirred at room temperature for 18 h, sodium sulphite (1.25 g) added and the mixture evaporated to dryness. The residue was basified to pH 8 with sodium bicarbonate solution, washed with ethyl acetate, basified to pH 10 with sodium carbonate and extracted with ethyl acetate to give a foam (0.46 g). This was crystallised from methyl acetate-petroleum ether (b.p. 60°-80°) to give the title compound as a white solid (0.22 g), m.p. 121°-122°.

reactant | Peracetic acid | C(C)(=O)OO | C2H4O3
reactant | 1-methyl-3-methylthiomethyl-N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1H-1,2,4-triazole-5-amine | 0.82 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CSC | C20H31N5OS
reactant | sodium acetate | 0.52 g | C(C)(=O)[O-].[Na+]
reactant | sodium sulphite | 1.25 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-Methyl-3-methylsulphonylmethyl-N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-1H-1,2,4-triazole-5-amine | 0.46 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)CS(=O)(=O)C | C20H31N5O3S
